US04952580
To a stirred mixture of 3.2 grams (0.01 mole) of the silver salt of heptafluorobutyric acid in 40 ml of diethyl ether was added dropwise 1.9 grams (0.01 mole) of 4-bromo-1,1,2-trifluoro-1-butene in 10 ml of diethyl ether. Upon completion of addition the reaction mixture was stirred for two hours at ambient temperature, then was heated under reflux for one hour. The ether solvent was removed by distillation and the residual oil distilled under reduced pressure to give 1.0 gram of (3,4,4-trifluoro-3-butenyl) heptafluorobutyrate; b.p. 25° C./4.0 mm Hg. The nmr spectrum was consistent with the proposed structure.

reactant | heptafluorobutyric acid | FC(C(C(C(=O)O)(F)F)(F)F)(F)F | C4HF7O2
reactant | 4-bromo-1,1,2-trifluoro-1-butene | 0.01 mole, 1.9 grams | BrCCC(=C(F)F)F | C4H4BrF3
solvent | diethyl ether | 40 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
catalyst | silver | 0.01 mole, 3.2 grams | [Ag] | Ag
product | (3,4,4-trifluoro-3-butenyl) heptafluorobutyrate | 1.0 gram | FC(C(C(C(=O)OCCC(=C(F)F)F)(F)F)(F)F)(F)F | C8H4F10O2
